US05317005
n-Butyllithium (200 ml of 2N in pentane) was added dropwise over 30 minutes to a stirred solution of di-isopropylamine (40.4 g) in tetrahydrofuran (200 ml) at -70° C. under nitrogen. The mixture was stirred for 20 minutes and then 4,6-dimethoxy-2-methylpyrimidine (61.6 g) in tetrahydrofuran (200 ml) was added dropwise over 20 minutes. The mixture was stirred at -70° C. for 30 minutes before being poured onto a large excess of solid carbon dioxide. The mixture was allowed to warm to room temperature before water (800 ml) was added. The clear solution was concentrated to half volume under vacuum and was then washed with ether. The aqueous phase was acidified with concentrated hydrochloric acid and the resulting solid was filtered, washed with water and dried to give 58.3 g of (4,6-dimethoxypyrimidin-2-yl)acetic acid.

reactant | n-Butyllithium | 2N, 200 ml | C(CCC)[Li]
reactant | di-isopropylamine | 40.4 g | C(C)(C)NC(C)C | C6H15N
reactant | 4,6-dimethoxy-2-methylpyrimidine | 61.6 g | COC1=NC(=NC(=C1)OC)C | C7H10N2O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 800 ml | O | H2O
product | (4,6-dimethoxypyrimidin-2-yl)acetic acid | 58.3 g | COC1=NC(=NC(=C1)OC)CC(=O)O | C8H10N2O4
